US07414051B2
Preparation of 2-[7-(2-Chloroethoxy)-3-(naphthalene-1-sulfonyl)-1H-indazol-5-yloxy]ethanol
A mixture of 2-[4-amino-3- (2-chloroethoxy)-5-(naphthalene-1-sulfonylmethyl)phenoxy]ethanol (1.22 g, 2.8 mmoles) in THF and 4M HCl was stirred, under nitrogen, at 3° C., treated dropwise with a solution of sodium nitrite (0.20 g, 2.94 mmoles) in H2O, poured into a cold solution of saturated sodium bicarbonate and extracted with EtOAc. The extracts were combined, dried over Na2SO4 and concentrated under vacuum to afford the title compound (1.18 g, 2.65 mmoles), identified by HNMR and mass spectral analyses.

reactant | 2-[4-amino-3- (2-chloroethoxy)-5-(naphthalene-1-sulfonylmethyl)phenoxy]ethanol | 2.8 mmoles, 1.22 g | NC1=C(C=C(OCCO)C=C1CS(=O)(=O)C1=CC=CC2=CC=CC=C12)OCCCl | C21H22ClNO5S
reactant | sodium nitrite | 2.94 mmoles, 0.20 g | N(=O)[O-].[Na+]
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | THF | C1CCOC1 | C4H8O
solvent | HCl | 4M | Cl | ClH
solvent | H2O | O | H2O
product | 2-[7-(2-Chloroethoxy)-3-(naphthalene-1-sulfonyl)-1H-indazol-5-yloxy]ethanol | 2.65 mmoles, 1.18 g | ClCCOC=1C=C(C=C2C(=NNC12)S(=O)(=O)C1=CC=CC2=CC=CC=C12)OCCO | C21H19ClN2O5S
